US07626021B2
Methyl chloroformate (42 ul, 0.53 mmol) was added dropwise to a solution of 2-amino-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4,b]pyridin-5-yl]-N,N-dimethyl-benzamide (21 mg, 0.05 mmol) in dichloromethane/saturated aqueous sodium bicarbonate (1:1) at 0° C. The mixture was stirred for another 3 hours, allowing to slowly warm to room temperature. The reaction was washed three times with water (5 ml), dried over sodium sulfate and concentrated to dryness. The crude was purified by flash chromatography on silica gel using a gradient of ethyl acetate and hexane to afford {2-dimethylcarbamoyl-4[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-carbamic acid methyl ester (4.9 mg, 21% yield). 1H NMR (500 MHz, DMSO-d6) δ 2.88 (d, 6H), 3.58 (s, 3H), 3.77 (s, 3H), 7.03 (m, 1H), 7.15 (d, 1H), 7.40 (m, 1H), 7.58 (s, 1H), 7.64 (d, 1H), 7.73 (d, 1H), 8.27 (s, 1H), 8.78 (s, 1H), 9.03 (s, 1H), 13.75 (s, 1H); MS: m/z 446.1 (M+H+).

reactant | Methyl chloroformate | 0.53 mmol, 42 ul | ClC(=O)OC | C2H3ClO2
reactant | 2-amino-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4,b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.05 mmol, 21 mg | NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C22H21N5O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | {2-dimethylcarbamoyl-4[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-carbamic acid methyl ester | 4.9 mg, 21% yield | COC(NC1=C(C=C(C=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)C(N(C)C)=O)=O | C24H23N5O4
